US09388173B2
Step 1: N-(5-bromo-2-nitrophenyl)tetrahydro-2H-pyran-4-amine
To a solution of 4-bromo-2-fluoro-1-nitrobenzene (2 g, 9.137 mmol) in DMF (10 mL) was added tetrahydro-2H-pyran-4-amine (1.108 g, 10.964 mmol) and TEA (2.772 g, 27.410 mmol). The reaction mixture was heated at 120° C. in microwave reactor for 30 mins. The reaction mixture was diluted with H2O then extracted with EA. The combined organic layers were dried over sodium sulfate, filtered and concentrated to yield a crude product (2.5 g) which was used in next step without further purification. LCMS (m/z): 301.0 (M+1).

reactant | 4-bromo-2-fluoro-1-nitrobenzene | 9.137 mmol, 2 g | BrC1=CC(=C(C=C1)[N+](=O)[O-])F | C6H3BrFNO2
reactant | tetrahydro-2H-pyran-4-amine | 10.964 mmol, 1.108 g | O1CCC(CC1)N | C5H11NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | N-(5-bromo-2-nitrophenyl)tetrahydro-2H-pyran-4-amine | 2.5 g | BrC=1C=CC(=C(C1)NC1CCOCC1)[N+](=O)[O-] | C11H13BrN2O3
